US04978753
In the manner given in Example 1, 2-amino-6-methoxy-5-(2,4-diethoxyphenyl)-3H-1,4-benzodiazepine, methyl propiolate and methanol were refluxed. The mixture was chromatographed to give 8-methoxy-7-(2,4-diethoxyphenyl)pyrimido[1,2-a][1,4]benzodiazepin-3(5H)-one.

reactant | 2-amino-6-methoxy-5-(2,4-diethoxyphenyl)-3H-1,4-benzodiazepine | NC1=NC2=C(C(=NC1)C1=C(C=C(C=C1)OCC)OCC)C(=CC=C2)OC | C20H23N3O3
reactant | methyl propiolate | C(C#C)(=O)OC | C4H4O2
solvent | methanol | CO | CH4O
product | 8-methoxy-7-(2,4-diethoxyphenyl)pyrimido[1,2-a][1,4]benzodiazepin-3(5H)-one | COC1=CC=CC2=C1C(=NCC=1N2C=CC(N1)=O)C1=C(C=C(C=C1)OCC)OCC | C23H23N3O4
